US07125993B2
To a mixture of 5,6-diamino-1-ethyl-3-propyl-1,3-dihydropyrimidine-2,4-dione (100 mg, 0.47 mmol) and 1-{[3-(trifluoromethyl)phenyl]methyl}pyrazole-4-carboxylic acid (0.151 g, 0.56 mmol) in methanol (10 ml) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.135 g, 0.7 mmol), and the reaction mixture was stirred overnight at room temperature. The solvent was removed under reduced pressure, and the residue purified using Bistag, eluting with 10% methanol/methylene chloride, to provide N-(6-amino-1-ethyl-2,4-dioxo-3-propyl(1,3-dihydropyrimidin-5-yl))(1-{[3-(trifluoromethyl)phenyl]methyl}-pyrazol-4-yl)carboxamide.

reactant | 5,6-diamino-1-ethyl-3-propyl-1,3-dihydropyrimidine-2,4-dione | 0.47 mmol, 100 mg | NC=1C(N(C(N(C1N)CC)=O)CCC)=O | C9H16N4O2
reactant | 1-{[3-(trifluoromethyl)phenyl]methyl}pyrazole-4-carboxylic acid | 0.56 mmol, 0.151 g | FC(C=1C=C(C=CC1)CN1N=CC(=C1)C(=O)O)(F)F | C12H9F3N2O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.7 mmol, 0.135 g | Cl.CN(CCCN=C=NCC)C
reactant | methanol | 10 ml | CO | CH4O
product | N-(6-amino-1-ethyl-2,4-dioxo-3-propyl(1,3-dihydropyrimidin-5-yl))(1-{[3-(trifluoromethyl)phenyl]methyl}-pyrazol-4-yl)carboxamide | NC1=C(C(N(CN1)C(C(C)=O)CC)=O)NC(=O)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F | C21H23F3N6O3
